US04677100
(A) Benzhydryl 7-[(Z)-2-(1-tert-butoxycarbonyl-1-cyclopropoxyimino)-2-(2-tritylaminothiazol-4-yl) acetamido]-3-iodomethyl-3-cephem-4-carboxylate 1-oxide
14.2 g (14.7 mmol) of benzhydryl 7-[(Z)-2-(1-tertbutoxycarbonyl-1-cyclopropoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate was dissolved in 280 ml of methylene chloride, and 2.98 g (14.7 mmol) of m-chloroperbenzoic acid was added thereto under cooling with ice. The mixture was stirred for 10 minutes. To the reaction solution, 60 ml of a 10% sodium thiosulfate aqueous solution was added. The aqueous solution was poured into a 5% sodium hydrogen carbonate aqueous solution, then extracted with methylene chloride and dried over anhydrous sodium sulfate. The residue obtained by the concentration under reduced pressure was dissolved in 300 ml of acetone, and then 4.4 g (29.4 mmol) of sodium iodide was added thereto at 0° C. The mixture was stirred at room temperature for 15 minutes. The reaction solution was washed with a sodium thiosulfate aqueous solution and with a saturated sodium chloride aqueous solution. Then the organic solvent layer was dried over anhydrous sodium sulfate. The residue obtained by the concentration under reduced pressure was subjected to silica gel flush column chromatography (ethyl acetate/n-hexane=1/2) to obtian 9.52 g (yield: 60%) of the above-identified compound.

reactant | benzhydryl 7-[(Z)-2-(1-tertbutoxycarbonyl-1-cyclopropoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 14.7 mmol, 14.2 g | C(C)(C)(C)OC(=O)C1(CC1)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C53H48ClN5O7S2
reactant | m-chloroperbenzoic acid | 14.7 mmol, 2.98 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium iodide | 29.4 mmol, 4.4 g | [I-].[Na+]
solvent | methylene chloride | 280 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 300 ml | CC(=O)C | C3H6O
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | Benzhydryl 7-[(Z)-2-(1-tert-butoxycarbonyl-1-cyclopropoxyimino)-2-(2-tritylaminothiazol-4-yl) acetamido]-3-iodomethyl-3-cephem-4-carboxylate 1-oxide | 9.52 g, yield: 60% | C(C)(C)(C)OC(=O)C1(CC1)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2=O)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C53H48IN5O8S2
